US08217043B2
b) 1-(3-Fluoro-benzyl)-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester
Prepared according to the thermal cyclization condition used in Example 1 step c) from (3-fluoro-benzyl)-pyrrol-1-yl-carbamic acid tert-butyl ester (1.0 eq.) and 2-ethoxycarbonyl-malonic acid diethyl ester (3.0 eq.). ESI (m/z): 331 (M+H)+.

reactant | (3-fluoro-benzyl)-pyrrol-1-yl-carbamic acid tert-butyl ester | 1.0 eq. | C(C)(C)(C)OC(N(N1C=CC=C1)CC1=CC(=CC=C1)F)=O | C16H19FN2O2
reactant | 2-ethoxycarbonyl-malonic acid diethyl ester | 3.0 eq. | C(C)OC(C(C(=O)OCC)C(=O)OCC)=O | C10H16O6
product | 1-(3-Fluoro-benzyl)-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C=2N(N(C1=O)CC1=CC(=CC=C1)F)C=CC2)O | C17H15FN2O4
